US07214673B2
(S)-9-Fluoro-5-[3-phenethyl-piperazine-1-yl]-11H-12-thia-6,11-diaza-dibenzo[a,f]azulene
Combine 9-fluoro-11H-12-thia-6,11-diaza-dibenzo[a,f]azulen-5-ylamine hydrogen chloride (287 mg, 0.9 mmol), (S)-2-phenethyl-piperazine (340 mg, 1.80 mmol) and diisopropylethyl amine (116 mg, 0.9 mmol) in DMSO (0.5 mL) and toluene (2.0 mL), stir and microwave (300 W, 125 ° C.) for 8 h, then heat to 115 ° C. for 22 h. Cool the reaction to RT, dilute with CH2Cl2, wash with H2O and brine. Dry the organic layer with by Na2SO4. The crude material purify by chromatography on silica gel, gradient (100% CH2Cl2 to 100% CH2Cl2:2N NH3/MeOH=25:1), give 137 mg of title compound.

reactant | 9-fluoro-11H-12-thia-6,11-diaza-dibenzo[a,f]azulen-5-ylamine hydrogen chloride | 0.9 mmol, 287 mg | Cl.FC=1C=CC2=C(NC=3SC4=C(C3C(=N2)N)C=CC=C4)C1
reactant | (S)-2-phenethyl-piperazine | 1.80 mmol, 340 mg | C(CC1=CC=CC=C1)[C@@H]1NCCNC1 | C12H18N2
reactant | diisopropylethyl amine | 0.9 mmol, 116 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (S)-9-Fluoro-5-[3-phenethyl-piperazine-1-yl]-11H-12-thia-6,11-diaza-dibenzo[a,f]azulene | 137 mg | FC=1C=CC2=C(NC=3SC4=C(C3C(=N2)N2C[C@@H](NCC2)CCC2=CC=CC=C2)C=CC=C4)C1 | C27H25FN4S
